US08455475B2
2-Benzyl-8-(pyridin-3-yl)-2-azaspiro[4.5]decan-8-ol
A solution of 3-bromopyridine (290 μl, 2.96 mmol, 1.20 eq.) in dry THF (9 ml) was added dropwise to a solution of n-BuLi (2.47 ml, 4.94 mmol, 2.0 eq., 2M solution in hexane) in THF (9 ml) at −78° C. and the reaction mixture was stirred at same temperature for 1 h. A solution of 2-benzyl-2-azaspiro[4.5]decan-8-one (600 mg, 2.47 mmol, 1.0 eq.) (see step-6 product AMN-39) in THF (10 ml) was added dropwise at −78° C. and the reaction mixture was stirred at the same temperature for 1 h. After completion of the reaction (monitored by TLC), the reaction mixture was quenched with water (15 ml) while cooling and extracted with ethyl acetate (2×30 ml). The combined organic layers were washed with water (20 ml) and brine (20 ml), and dried over sodium sulfate. The solvent was evaporated under reduced pressure to give the crude product which was purified by column chromatography (silica gel; 10% MeOH/MC) to yield the desired compound as a light brown semi-solid. Yield: 44% (350 mg, 1.08 mmol).

reactant | 3-bromopyridine | 2.96 mmol, 290 μl, 1.20 eq. | BrC=1C=NC=CC1 | C5H4BrN
reactant | n-BuLi | 4.94 mmol, 2M, 2.47 ml, 2.0 eq. | [Li]CCCC
reactant | 2-benzyl-2-azaspiro[4.5]decan-8-one | 2.47 mmol, 600 mg, 1.0 eq. | C(C1=CC=CC=C1)N1CC2(CC1)CCC(CC2)=O | C16H21NO
solvent | THF | 9 ml | C1CCOC1 | C4H8O
solvent | THF | 9 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-Benzyl-8-(pyridin-3-yl)-2-azaspiro[4.5]decan-8-ol | Yield: 44% | C(C1=CC=CC=C1)N1CC2(CC1)CCC(CC2)(O)C=2C=NC=CC2 | C21H26N2O
